* AD8417 MACROMODEL
* Description: Current Sense Amplifier
* Generic Desc: G=60, BiDir, ZeroDrift
* Developed by: KF, PB 
* Revision History: 11/01/2013 - Rev.1
* 9/22/2015 - Rev.2 
* Copyright 2013 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled: 
*	Temperature
*	PSRR
* Parameters modeled include: 
*	Offset Voltage
*	Bias Current vs. Common Mode Voltage
*	DC Transfer Characteristic
*	DC CMRR
*	Gain vs. Frequency
*	CMRR vs. Frequency
*	Spectral Noise
*	Slew Rate	
*	Pulse Response
*	Capacitive Loading Effects
*	Common-Mode Step Response
* END Notes
*
************************
.SUBCKT AD8417  VIN- GND REF2 VOUT VS REF1 VIN+

D24 36 37 DIODE
V14 0 38 dc 2.35
D26 38 2 DIODE
D25 2 VIN- DIODE
V12 0 36 dc 2.35
D23 37 VIN+ DIODE
R9 35 REF2x 100000
R8 35 REF1x 100000
RRef2 5 REF2 100000
RRef1 5 REF1 100000
I6 4 0 dc 8e-005
V9 34 0 dc 1.5
D22 34 4 DIODE
D21 VIN+ 4 DIODE
R6 VIN+ 35 720000
R5 VIN- 0 1525000
Lcm 18 33 0.0029
D19 29 6 DIODE
D13 28 29 DIODE
D18 25 20 DIODE
D17 20 27 DIODE
D16 27 26 DIODE
D15 26 12 DIODE
D14 12 28 DIODE
D12 8 25 DIODE
D6 9 8 DIODE
D5 10 9 DIODE
D4 11 10 DIODE
D3 6 11 DIODE
R14 0 20 1
GI11 0 20 VIN+ 0 1
V13 V85 22 dc 1.5
D10 20 22 DIODE
V7 21 VNEG4 dc 1.5
D9 21 20 DIODE
R13 0 6 1
GI10 0 6 VIN- 0 1
V4 19 VNEG4 dc 1.5
D8 19 6 DIODE
V2 V85 17 dc 1.5
D7 6 17 DIODE
EV8 Vsl+in 0 20 0 1
EV6 7 0 6 0 1
Vos 3 7 dc 0.0002
R7 Vo1 0 1000000000
R4 1 5 1450000 
R3 Vsl+out 1 25000 
R2 33 Vo1 1500000  
Rcm 3 18 25002.5
GI1 0 Vo1 1 33 1

* Noise 
 
V11 15 0 dc 0
Rn 16 15 0.00166
Vn 16 0 dc 0
Hn 32 Vo1 Vn 2015

** Clamps

V10 0 30 dc 100
D20 30 14 DIODE
V19 0 24 dc -100
D11 14 24 DIODE
V5 VS 13 dc 0.85
D1 VOUT 13 DIODE
V1 23 GND dc 0.85
D2 23 VOUT DIODE

* Gain stage

Rg2 VOUT 0 454.5
Cg2 VOUT 0 1.4e-009
GIg2 0 VOUT 14 0 0.0022
Cg1 0 14 6.37e-007
Rg1 0 14 1000000
GIg1 0 14 31 VOUT 1

* Slew Rate

GIsl 0 31 VALUE={LIMIT(1*V(32,31),0.1,-0.1)}
Rsl 31 0 1000000000
Csl 31 0 1e-007

* Supplies 

EV20 REF2x 0 REF2 0 1
EV18 REF1x 0 REF1 0 1
V16 0 VNEG4 dc 4
V15 V85 0 dc 85
I4 VS GND dc 0.002

* Common-Mode Step Response

R1 Vsl+out 0 1000000000
C1 Vsl+out 0 1e-009
GI2 0 Vsl+out VALUE={LIMIT(1*V(Vsl+in,Vsl+out),15,-15)}

.model DIODE  D(Is=1E-14)

.ENDS AD8417



